US06008237
A solution of 4-(4'-methylphenoxy)benzaldehyde (9.00 g, 41.63 mmol) in CHCl3 (75 mL) was treated with m-chloroperbenzoic acid (46-85%, 15.80 g, 52.00 mmol) and stirred for 3 h at room temperature. The reaction was washed with sat. aq. NaHSO3, sat. aq. NaHCO3, and water. The organic layer is concentrated and the residual oil taken up in MeOH (10 mL) containing a few drops of conc. HCL and stirred for 1 h at room temperature. The solvent is removed in vacuo and the resulting oil was chromatographed on silica gel (20% ethyl acetate/hexane) to afford 4-(4'-methylphenoxy)phenol.

reactant | 4-(4'-methylphenoxy)benzaldehyde | 41.63 mmol, 9.00 g | CC1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C14H12O2
reactant | m-chloroperbenzoic acid | 52.00 mmol, 15.80 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 75 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(4'-methylphenoxy)phenol | CC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C13H12O2
